US07592373B2
3-(3-chlorobiphenyl-4-yl)propynoic acid-(4-piperidin-1-ylmethylphenyl)amide hydrochloride
Prepared analogously to Example 3.8 from (3-chlorobiphenyl-4-yl)propynoic acid and 4-piperidin-1-ylmethylphenylamine. Yield: 0.35 g (75% of theory); melting point: 260° C.-265° C.; C27H25ClN20*HCl (M=465.41); calc.: molecular ion peak (M+H)+: 429/31 (Cl); found: molecular ion peak (M+H)+: 429/31 (Cl); Rf value: 0.6 (silica gel, dichloromethane/methanol/ammonia (90:10:0.1)).

reactant | (3-chlorobiphenyl-4-yl)propynoic acid | ClC=1C=C(C=CC1C#CC(=O)O)C1=CC=CC=C1 | C15H9ClO2
reactant | 4-piperidin-1-ylmethylphenylamine | N1(CCCCC1)CC1=CC=C(C=C1)N | C12H18N2
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
product | 3-(3-chlorobiphenyl-4-yl)propynoic acid-(4-piperidin-1-ylmethylphenyl)amide hydrochloride | Cl.N1(CCCCC1)CC1=CC=C(C=C1)NC(C#CC1=C(C=C(C=C1)C1=CC=CC=C1)Cl)=O | InChI=1S/C27H25ClN2O.ClH/c28-26-19-24(22-7-3-1-4-8-22)12-11-23(26)13-16-27(31)29-25-14-9-21(10-15-25)20-30-17-5-2-6-18-30;/h1,3-4,7-12,14-15,19H,2,5-6,17-18,20H2,(H,29,31);1H
